US09212187B2
1-Ethyl-3,3,5-trimethyl-7-{[N-(2-pyridin-3-ylethyl)-N-(quinolin-5-yl)amino]methyl}-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione trihydrochloride
1-Ethyl-3,3,5-trimethyl-7-{[N-(2-pyridin-3-ylethyl)amino]methyl}-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione (0.45 g), 5-bromoquinoline(0.25 g), tris(dibenzylideneacetone)dipalladium(5.4 mg), xantphos(10 mg), and cesium carbonate (0.46 g) were added to toluene(9 ml), and the mixture was heated at 130° C. for 3 days. The reaction liquid was cooled to room temperature. Water was added to the reaction mixture, and stirred for 1 hour, followed by extraction with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate. The filtrate was condensed under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate: methanol=85:15). The purified product was condensed under reduced pressure. A 1N-hydrogen chloride in ethanol solution(1 ml) was added to a ethanol solution (5 ml) of the residue, and the liquid was stirred at room temperature, and concentrated under reduced pressure. Ethanol and ether were added to the residue. The precipitated insoluble matter was separated, washed with ether, and dried to give the title compound(0.20 g) as a yellow amorphous.

reactant | 1-Ethyl-3,3,5-trimethyl-7-{[N-(2-pyridin-3-ylethyl)amino]methyl}-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 0.45 g | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)CNCCC=2C=NC=CC2 | C22H28N4O2
reactant | 5-bromoquinoline | 0.25 g | BrC1=C2C=CC=NC2=CC=C1 | C9H6BrN
reactant | cesium carbonate | 0.46 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 1 ml | C(C)O | C2H6O
catalyst | tris(dibenzylideneacetone)dipalladium | 5.4 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | xantphos | 10 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | Water | O | H2O
solvent | toluene | 9 ml | C1(=CC=CC=C1)C | C7H8
product | 1-Ethyl-3,3,5-trimethyl-7-{[N-(2-pyridin-3-ylethyl)-N-(quinolin-5-yl)amino]methyl}-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione trihydrochloride | 0.20 g | Cl.Cl.Cl.C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)CN(C2=C1C=CC=NC1=CC=C2)CCC=2C=NC=CC2 | InChI=1S/C31H33N5O2.3ClH/c1-5-36-27-14-13-23(19-28(27)34(4)29(37)31(2,3)30(36)38)21-35(18-15-22-9-7-16-32-20-22)26-12-6-11-25-24(26)10-8-17-33-25;;;/h6-14,16-17,19-20H,5,15,18,21H2,1-4H3;3*1H
